US07625902B2
(RS)-2-benzenesulfonylamino-3-hydroxy-propionic acid (1.204 g) was dissolved in tetrahydrofuran (15 ml) and cooled to 0° C. 1-(2,5-Dimethylphenyl)-piperazine (1.12 g), (benzotriazol-1-yloxy)-tris-(dimethylamino)-phosphonium-hexafluorophosphate (BOP reagent, 3.26 g) and N-ethyl-diisopropylamine (1.90 g) were added. The mixture was stirred at room temperature for 18 h. Ethyl acetate and a 10% KHSO4 solution were added. The organic phase was washed with water, dried, filtered and evaporated. The product was purified by chromatography (SiO2, cyclohexane/ethyl acetate 1:1=>ethyl acetate) to give (RS)—N-{2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-benzenesulfonamide (1.45 g) as a colorless foam. MS: 418.3 ([M+H]+)

reactant | (RS)-2-benzenesulfonylamino-3-hydroxy-propionic acid | 1.204 g | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)O)CO | C9H11NO5S
reactant | 1-(2,5-Dimethylphenyl)-piperazine | 1.12 g | CC1=C(C=C(C=C1)C)N1CCNCC1 | C12H18N2
reactant | (benzotriazol-1-yloxy)-tris-(dimethylamino)-phosphonium hexafluorophosphate | 3.26 g | N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | N-ethyl-diisopropylamine | 1.90 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)—N-{2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-benzenesulfonamide | 1.45 g | CC1=C(C=C(C=C1)C)N1CCN(CC1)C(C(CO)NS(=O)(=O)C1=CC=CC=C1)=O | C21H27N3O4S
